US06114568
To a mixture of 1-[4-(4-fluoro-phenoxy)-benzenesulfonylamino]-cyclopentanecarboxylic acid tert-butyl ester (1.0 g, 2.3 mmole) in 10 mL THF and 2.3 mL (2.3 mmole) 1M tetrabutylammonium fluoride in THF was added 0.23 mL (2.3 mmole) ethyl propiolate at ambient temperature. After stirring 1 hour the reaction was complete by HPLC and was stripped to dryness in vacuo. The residue was dissolved in 20 mL ethyl acetate and washed with 2×10 mL water and the organic solution stripped to an oil. This oil was chromatographed over silica gel, eluting with 10% ethyl acetate/hexane to yield 0.95 g (77% yield) 1-{(2-ethoxycarbonyl-vinyl)-[4-(4-fluoro-phenoxy)-benzenesulfonyl]-amino}-cyclopentanecarboxylic acid tert-butyl ester as a colorless oil. 1H NMR (CDCl3) indicated a 1.5:1 trans/cis ratio.

reactant | 1-[4-(4-fluoro-phenoxy)-benzenesulfonylamino]-cyclopentanecarboxylic acid tert-butyl ester | 2.3 mmole, 1.0 g | C(C)(C)(C)OC(=O)C1(CCCC1)NS(=O)(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)F | C22H26FNO5S
reactant | tetrabutylammonium fluoride | 2.3 mmole, 1M, 2.3 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ethyl propiolate | 2.3 mmole, 0.23 mL | C(C#C)(=O)OCC | C5H6O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 1-{(2-ethoxycarbonyl-vinyl)-[4-(4-fluoro-phenoxy)-benzenesulfonyl]-amino}-cyclopentanecarboxylic acid tert-butyl ester | 0.95 g, 77% yield | C(C)(C)(C)OC(=O)C1(CCCC1)N(S(=O)(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)F)C=CC(=O)OCC | C27H32FNO7S
